US05990101
A 30 ml portion of trifluoroacetic acid was added to 9.0 g of 2-(N-t-butoxycarbonylamino)methyl-4-ethoxycarbonyl-5-methylthiazole, and the mixture was then stirred at room temperature for 1 hour. After the reaction solution was concentrated under reduced pressure, an aqueous saturated sodium hydrogencarbonate solution was added so as to adjust the pH of the solution to about 8. Then, 150 ml of dichloromethane was added, and a mixture of 28.4 ml of formic acid and 14.2 ml of acetic anhydride which had been beforehand reacted with each other at 50° C. for 30 minutes was then added at room temperature with vigorous stirring, followed by stirring for additional 1 hour. The organic layer was separated, and the aqueous layer was further extracted four times with dichloromethane. The combined organic layer was dried over anhydrous sodium sulfate and then filtered, and the solvent was evaporated under reduced pressure. To the resulting unpurified 4-ethoxycarbonyl-2-(formylamino)methyl-5-methylthiazole, 30 ml of toluene and 14 ml of phosphorus oxychloride were added, followed by stirring at 100° C. for 1 hour. After cooled to room temperature, the reaction solution was concentrated under reduced pressure, and the resulting residue was then diluted with dichloromethane. Afterward, an aqueous potassium carbonate solution was added so as to adjust the pH of the solution to about 8. The organic layer was separated, and the aqueous layer was further extracted five times with dichloromethane. The combined organic layer was dried over anhydrous magnesium sulfate and then filtered, and the solvent was evaporated under reduced pressure to obtain 5.43 g of 3-ethoxycarbonyl-2-methylimidazo[5,1-b]thiazole.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(N-t-butoxycarbonylamino)methyl-4-ethoxycarbonyl-5-methylthiazole | 9.0 g | C(C)(C)(C)OC(=O)NCC=1SC(=C(N1)C(=O)OCC)C | C13H20N2O4S
product | 3-ethoxycarbonyl-2-methylimidazo[5,1-b]thiazole | 5.43 g | C(C)OC(=O)C=1N2C(SC1C)=CN=C2 | C9H10N2O2S
